US09238639B2
(6-((2,6-Dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetic acid
To a mixture of ethyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate (7.73 g), EtOH (75 mL) and THF (dry) (75 mL) was added 1N NaOH (45 mL). The mixture was stirred at room temperature for 2 h. To the mixture were added EtOH (50 mL) and MeOH (75 mL). The mixture was neutralized with 1N HCl (45 mL), and then water (500 mL) was added dropwise to the mixture. The precipitate was collected by filtration and washed with water. The solid was recrystallized from acetone-hexane to give the title compound (4.85 g).

reactant | ethyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 7.73 g | C(C)OC(CC1=CSC2=C1C=CC(=C2)OCC=2C(=NC(=CC2)C)C)=O | C20H21NO3S
reactant | NaOH | 1N, 45 mL | [OH-].[Na+]
reactant | HCl | 1N, 45 mL | Cl | ClH
solvent | water | 500 mL | O | H2O
solvent | MeOH | 75 mL | CO | CH4O
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | EtOH | 75 mL | CCO | C2H6O
product | (6-((2,6-Dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetic acid | 4.85 g | CC1=NC(=CC=C1COC1=CC2=C(C(=CS2)CC(=O)O)C=C1)C | C18H17NO3S
